US05281571
A mixture of 3.4 g (0.01 mole) 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde, 2.73 g (0.0125 mole) carboxymethoxylamine hemihydrochloride and 1.03 g (0.0125 mole) sodium acetate in 50 mL ethanol was heated to reflux for 2 hours. The reaction mixture was allowed to cool, treated with 150 mL of water and the resultant precipitate collected and dried. The product was recrystallized from methylcyclohexane with a minimum amount of ethyl acetate to yield 3.35 g (81%) of ((((2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)methylene)amino)oxy)acetic acid as a white solid; mp 170° C.

reactant | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde | 0.01 mole, 3.4 g | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C12H6Cl2F4N2O
reactant | carboxymethoxylamine hemihydrochloride | 0.0125 mole, 2.73 g | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | sodium acetate | 0.0125 mole, 1.03 g | C(C)(=O)[O-].[Na+]
reactant | water | 150 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ((((2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)methylene)amino)oxy)acetic acid | 3.35 g, 81% | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)C=NOCC(=O)O | C14H9Cl2F4N3O3
